US05998417
(A) 1-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxybutane
A stirred mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (5.5 g, 25 mmol) and 1,2-epoxybutane (1.89 g, 26.3 mmol) in isopropyl alcohol (100 ml) was heated at 65° C. for 2 days. This mixture was cooled and the solvent was removed to leave a brown oil which was purified by flash chromatography over a silica gel column (SiO2, 70 g; eluted with DCM, 1 l and MeOH:DCM 2%:98%) to give an off-white solid weighing 6.3 g. Recrystallization from hot ethanol yielded 1.96 g of fine crystals, m.p. 87-88° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 25 mmol, 5.5 g | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | 1,2-epoxybutane | 26.3 mmol, 1.89 g | O1CC1CC | C4H8O
solvent | isopropyl alcohol | 100 ml | C(C)(C)O | C3H8O
product | 1-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]-2-hydroxybutane | 1.96 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CC(CC)O)C=C1 | C16H21FN2O2
